US04933336
To a cooled (0-5° C.) solution of 43.2 g (0.4mol) phenylhydrazine and 35.2 g (0.44 mol) pyridine in 300 ml DMF were added slowly 51 g (0.35 mol) cyclohexane carboxylic acid chloride. The solution was stirred 30 mn more after the end of the addition and concentrated under vacuum. The residue was poured in 300 ml water and stirred 30 mn. Filtration, washing with water and drying led to 74.5 g (98%) of the desired compound. The compound contained traces of starting material and was used without further purification. An analytical sample was obtained from isopropyl ether/ethyl ether

reactant | phenylhydrazine | 0.4mol, 43.2 g | C1(=CC=CC=C1)NN | C6H8N2
reactant | pyridine | 0.44 mol, 35.2 g | N1=CC=CC=C1 | C5H5N
reactant | cyclohexane carboxylic acid chloride | 0.35 mol, 51 g | C1(CCCCC1)C(=O)Cl | C7H11ClO
solvent | DMF | 300 ml | CN(C)C=O | C3H7NO
product | isopropyl ether ethyl ether | C(C)(C)OC(C)C.C(C)OCC | InChI=1S/C6H14O.C4H10O/c1-5(2)7-6(3)4;1-3-5-4-2/h5-6H,1-4H3;3-4H2,1-2H3
